US07064207B2
Preparation 3: 2-Oxo-4-trifluoromethyl-1,2-dihydroquinoline-6-sulfonyl chloride
4-Trifluoromethyl-1H-quinolin-2-one (5.00 g, 23.5 mmol) was treated with ClSO3H (3.1 mL, 47.0 mmol) at 0° C. The mixture was then heated with stirring to 140° C. for 7 hours. On cooling, ice-cold H2O (50 mL) was added. The solid produced was collected and dried to give the title compound (2.93 g, 41%): δH (CDCl3)=7.20 (s, 1H), 7.60 (d, 1H), 8.20 (dd, 1H), 8.50 (d, 1H).

reactant | 4-Trifluoromethyl-1H-quinolin-2-one | 23.5 mmol, 5.00 g | FC(C1=CC(NC2=CC=CC=C12)=O)(F)F | C10H6F3NO
reactant | ClSO3H | 47.0 mmol, 3.1 mL | ClS(=O)(=O)O | ClHO3S
product | 2-Oxo-4-trifluoromethyl-1,2-dihydroquinoline-6-sulfonyl chloride | 2.93 g, 41% | O=C1NC2=CC=C(C=C2C(=C1)C(F)(F)F)S(=O)(=O)Cl | C10H5ClF3NO3S
